* test 

*.param VCC = 1.8

* 1-bit ADC
.subckt ad1bit in ref comp out ref_out vcc
B1 ref_out 0 V = v(ref)/2
B2 comp    0 V = (v(in) > v(ref_out)) ? v(vcc) : 0
B3 out     0 V = (v(in) > v(ref_out)) ? v(in)-v(ref_out) : v(in)
.ends

.subckt adc_ideal in ref vcc ad7 ad6 ad5 ad4 ad3 ad2 ad1 ad0
Xad7  in  ref  ad7  in7  ref7  vcc ad1bit
Xad6  in7  ref7  ad6  in6  ref6  vcc ad1bit
Xad5  in6  ref6  ad5  in5  ref5  vcc ad1bit
Xad4  in5  ref5  ad4  in4  ref4  vcc ad1bit
Xad3  in4  ref4  ad3  in3  ref3  vcc ad1bit
Xad2  in3  ref3  ad2  in2  ref2  vcc ad1bit
Xad1  in2  ref2  ad1  in1  ref1  vcc ad1bit
Xad0  in1  ref1  ad0  in0  ref0  vcc ad1bit
.ends

Vadc_in in 0 0 external
Vcc vcc 0 {VCC}
Vref ref 0 1.0

Xad in ref vcc ad7 ad6 ad5 ad4 ad3 ad2 ad1 ad0 adc_ideal

* Add some diffrent delays for testing
adelay7 ad7 out_7 vcc mydel8ns
.model mydel8ns delay(delay=16ns)
Vout7 out_7 adc_out[7] 0

adelay6 ad6 out_6 vcc mydel7ns
.model mydel7ns delay(delay=14ns)
Vout6 out_6 adc_out[6] 0

adelay5 ad5 out_5 vcc mydel6ns
.model mydel6ns delay(delay=12ns)
Vout5 out_5 adc_out[5] 0

adelay4 ad4 out_4 vcc mydel5ns
.model mydel5ns delay(delay=10ns)
Vout4 out_4 adc_out[4] 0

adelay3 ad3 out_3 vcc mydel4ns
.model mydel4ns delay(delay=8ns)
Vout3 out_3 adc_out[3] 0

adelay2 ad2 out_2 vcc mydel3ns
.model mydel3ns delay(delay=6ns)
Vout2 out_2 adc_out[2] 0

adelay1 ad1 out_1 vcc mydel2ns
.model mydel2ns delay(delay=4ns)
Vout1 out_1 adc_out[1] 0

adelay0 ad0 out_0 vcc mydelns
.model mydelns delay(delay=2ns)
Vout0 out_0 adc_out[0] 0

* Vout0 ad0 adc_out[0] 0
* Vout1 ad1 adc_out[1] 0
* Vout2 ad2 adc_out[2] 0
* Vout3 ad3 adc_out[3] 0
* Vout4 ad4 adc_out[4] 0
* Vout5 ad5 adc_out[5] 0
* Vout6 ad6 adc_out[6] 0
* Vout7 ad7 adc_out[7] 0

Vdac_in[0] dac_in[0] 0 0 external
Vdac_in[1] dac_in[1] 0 0 external
Vdac_in[2] dac_in[2] 0 0 external
Vdac_in[3] dac_in[3] 0 0 external
Vdac_in[4] dac_in[4] 0 0 external
Vdac_in[5] dac_in[5] 0 0 external
Vdac_in[6] dac_in[6] 0 0 external
Vdac_in[7] dac_in[7] 0 0 external


Vpwmin pwmin 0 0 external
Rpwm pwmin pwmout 100k
Cpwm pwmout 0 20p

* A simple DAC so that the result may be compared to the input.
r7 dac_in[7] dac_out 2
r6 dac_in[6] dac_out 4
r5 dac_in[5] dac_out 8
r4 dac_in[4] dac_out 16
r3 dac_in[3] dac_out 32
r2 dac_in[2] dac_out 64
r1 dac_in[1] dac_out 128
r0 dac_in[0] dac_out 256


* .tran 1ns 10us 0 0.1ns
.tran 1ns 1m

.end